US06048864
(d) 2-Cyclobutyloxy-3,4-dimethoxybenzonitrile
2-Hydroxy-3,4-dimethoxybenzonitrile (6.65 g, 0.037 mol) was added to a suspension of cyclobutyl bromide (5.01 g, 0.037 mol) and potassium carbonate (5.11 g, 0.037 mol) in dimethylformamide (65 ml) and the reaction stirred at 80° C. for 4 hours. On cooling, the mixture was concentrated under reduced pressure and the residue partitioned between water (50 ml) and ethyl acetate (50 ml). The aqueous layer was extracted with further ethyl acetate (100 ml) and the combined organic extracts dried (MgSO4), filtered and evaporated under reduced pressure to give the subtitle compound as a brown oil (6.50 g, 75%). Rf 0.63 (dichloromethane). MS m/z 251 (MNH4)+.

reactant | 2-Hydroxy-3,4-dimethoxybenzonitrile | 0.037 mol, 6.65 g | OC1=C(C#N)C=CC(=C1OC)OC | C9H9NO3
reactant | cyclobutyl bromide | 0.037 mol, 5.01 g | C1(CCC1)Br | C4H7Br
reactant | potassium carbonate | 0.037 mol, 5.11 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 65 ml | CN(C=O)C | C3H7NO
product | 2-Cyclobutyloxy-3,4-dimethoxybenzonitrile | 6.50 g, 75% | C1(CCC1)OC1=C(C#N)C=CC(=C1OC)OC | C13H15NO3
